US05919793
A mixture of 3-[2-(2-allyl-4-methoxycarbonylphenyl)ethynyl]quinuclidin-3-ol (0.64 g), sodium cyanide (50 mg) and N,N-dimethylethanolamine (10 ml) was heated at 90° C. for 24 hours. The mixture was evaporated to give an oil which was partitioned between ethyl acetate and water. The organic phase was separated, washed with brine, dried (MgSO4) and evaporated. The residue was purified by flash column chromatography on silica gel using 10% methanol in dichloromethane containing 1% ammonia (density 0.88 g/cm3) as eluent to give 3-[2-(2-allyl-4-(2-(N,N-dimethylamino)ethoxycarbonyl)phenyl)ethynyl]quinuclidin-3-ol as a gum (0.559 g); microanalysis found: C, 66.7; H, 7.6; N, 6.7%, C23H30N2O3.0.4CH2Cl2.0.1 H2O requires 7.47; N, 6.7%; NMR (CDCl3): 1.32-1.55(1H, m), 1.55-1.88(1H, m), 1.88-2.20(3H, m), 2.33(6H, s), 2.70(2H, t), 2.65-3.15(4H, m), 3.07(1H, d), 3.33(1H, dd), 3.56(2H, d), 4.41(2H, t), 4.98-5.15(2H, m), 5.29(CH2Cl2), 5.85-6.10(1H, m), 7.43(1H, d) and 7.71-7.90(2H, m); m/Z 383 (M+H).

reactant | 3-[2-(2-allyl-4-methoxycarbonylphenyl)ethynyl]quinuclidin-3-ol | 0.64 g | C(C=C)C1=C(C=CC(=C1)C(=O)OC)C#CC1(CN2CCC1CC2)O | C20H23NO3
reactant | sodium cyanide | 50 mg | [C-]#N.[Na+]
reactant | N,N-dimethylethanolamine | 10 ml | CN(CCO)C | C4H11NO
product | 3-[2-(2-allyl-4-(2-(N,N-dimethylamino)ethoxycarbonyl)phenyl)ethynyl]quinuclidin-3-ol | 0.559 g | C(C=C)C1=C(C=CC(=C1)C(=O)OCCN(C)C)C#CC1(CN2CCC1CC2)O | C23H30N2O3
